US07642264B2
2-(3-Pyridin-4-yl-[1,2,4]triazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.2) (0.16 g, 0.5 mmol) and 4-(1H-[1,2,4]-triazol-3-yl)-pyridine [CAS-No. 14803-99-7] (0.075 g, 0.51 mmol) according to the general procedure IVa. Obtained as a white solid (0.096 g, 44%). MS (ISP) 437.3 [(M+H)+]; mp 248° C.

reactant | 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 0.5 mmol, 0.16 g | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H5ClF6N2
reactant | 4-(1H-[1,2,4]-triazol-3-yl)-pyridine | 0.51 mmol, 0.075 g | N1N=C(N=C1)C1=CC=NC=C1 | C7H6N4
product | 2-(3-Pyridin-4-yl-[1,2,4]triazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | N1=CC=C(C=C1)C1=NN(C=N1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C19H10F6N6
